US08304446B2
5-Chloro-N-[1-({3-[({[(1,1-dimethylethyl)amino]carbonyl}amino)methyl]phenyl}methyl)-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide
To a suspension of N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride (for a preparation see Intermediate 4) (55 mg, 0.11 mmol) in dry DCM (0.5 mL) was added triethylamine (0.015 mL, 0.11 mmol), followed by tert-butyl isocyanate (0.013 mL, 0.11 mmol). The reaction mixture was stirred at room temperature for 1.5 h. LCMS showed mainly required product with 6% SM. The reaction mixture was diluted with DCM and methanol and then concentrated in vacuo. The resultant residue was dissolved in 1:1 MeOH:DMSO (1 mL) and purified by MDAP (supelcosil ABZ+Plus column) eluting with solvents A/B (A: Water+0.1% Formic acid, B: MeCN:Water 95:5+0.05% Formic acid). The solvent was evaporated in vacuo to give the title compound (52 mg, 84%). LCMS (System A) RT=1.15 min, ES+ve m/z 562/564 (M+H)+.

reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | triethylamine | 0.11 mmol, 0.015 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl isocyanate | 0.11 mmol, 0.013 mL | C(C)(C)(C)N=C=O | C5H9NO
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-[1-({3-[({[(1,1-dimethylethyl)amino]carbonyl}amino)methyl]phenyl}methyl)-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC1=CC(=CC=C1)CNC(=O)NC(C)(C)C | C25H28ClN5O4S2
